2181-09-09 08:13:00 Physician Resident Progress Note
Chief Complaint: RP Bleed
   24 Hour Events:
   Pt had CT-scan w/ contrast last night --> prelim no interval increase
   in hematoma
   Pt with flash pulmonary edema last night, started on a nitro gtt for
   hypertension (SBP 190
s), given lasix 10mg IV, morphine 3mg and CXR
   showed pulmonary edema.  Pt respiratory status improved with
   intervention.
 EKG - At [**2181-9-9**] 02:21 AM
   Allergies:
   A.C.E Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-9-9**] 04:04 AM
   Morphine Sulfate - [**2181-9-9**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-9-9**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 84 (84 - 111) bpm
   BP: 121/55(71) {121/43(62) - 171/72(98)} mmHg
   RR: 18 (17 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
           Total In:
           1,950 mL
   PO:
           TF:
   IVF:
   81 mL
   Blood products:
   669 mL
   Total out:
                                                                      0 mL
                                                                  2,790 mL
   Urine:
   2,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -840 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.41/35/66/23/-1
   PaO2 / FiO2: 66
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasliar), poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   309 K/uL
   10.7 g/dL
   112 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.3 mEq/L
   25 mg/dL
   92 mEq/L
   125 mEq/L
   30.4 %
   12.3 K/uL
        [image002.jpg]
                            [**2181-9-9**]  01:51 AM
                            [**2181-9-9**]  04:03 AM
                            [**2181-9-9**]  04:17 AM
   WBC
   10.0
   12.3
   Hct
   22.6
   30.4
   Plt
   243
   309
   Cr
   0.9
   TCO2
   23
   Glucose
   112
   Other labs: PT / PTT / INR:19.2/34.8/1.8, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assesment: This is a [**Age over 90 **] year-old female with a history of CAD, CVA,
   afib on coumadin with supratherapeutic INR who presents with
   hypotension in setting of RP bleed and crit drop.
   .
   Plan:
   # Hypotension: Patient has known RP bleed seen on CT scan.  Repeat
   CT-scan w/ contrast did not show expansion of the hematoma. The RP
   bleed is likely cause of her hypotension. Likely in setting of elevated
   INR. She has a crit drop from 24-->16 since yesterday --> was given 2U
   pRBC 30.4 today and 2U FFP. No evidence of GI bleed (guaiac neg). No
   fever, white count to suggest infection. EKG wnl.
   -f/[**Location 471**] read of CT scan
   -maintain [**12-31**] PIV
   -monitor on tele
   -No evidence of hemolysis
   -cross match 4 units
   -check crit q6
   - transfuse for Hct < 25
   - monitor neuro status and renal function
   .
   #Pulmonary Edema: Likely [**12-30**] to transfusion of blood products causing
   flash pulmonary edema. Pt given lasix, morphine, and started on nitro
   drip for hypertension.  Pt improving.
   - cont to monitor and check I/O
   - monitor respiratory status
   - if pt needs fluid/ blood products should be given gently
   .
   # Hyponatremia: Patient likely volume depleted and has been receiving
   [**11-29**] normal maintenance fluids. Appears dry clinically. Urine sodium was
   10 with osm > 300 further supporting this hypothesis. Improving thus
   far with normal saline bolus from 117-->121-->125.
   -cont to monitor q8 lytes
   -continue NS if needed for bolus for hypotension, currently receiving
   blood.  Will start diet and monitor lytes.  Appears to be self
   correcting without intervention.
   .
   # Low back pain: no neurologic defecits on exam. Her low back pain may
   have been [**12-30**] this RP bleed as her L spine imaging on admission showed
   a ? left pelvic mass. Will hold narcotics given low blood pressure.
   -cont lidoderm patch
   -cont tizanidine
   -cont gabapentin
   .
   # Coagulopathy- Patient is on coumadin but unclear why her INR
   increased on admission and continued to do so after holding her
   coumadin. No recent antibiotics or new meds that would interfere with
   coumadin. Pt given 2U FFP and 10mg po vit K.  INR now1.8
   - monitor coags
   .
   # CAD: EKG wnl. Given bleeding and hypotension, will hold asa, plavix
   and bp meds. Cont statin.
   .
   # AF: hold coumadin in setting of bleed and elevated INR, hold toprol
   xl as well in setting of hypotension. Rate under control.
   .
   # HTN: hold bp meds
   .
   # Hypothyroidism: cont levothyroxine
   .
   # FEN: begin cardiac diet, replete lytes prn
   .
   # Access- 3 PIV
   .
   # PPx:  protonix, pneumoboots, bowel regimen
   .
   # Code:  Full Code, confirmed with HCP
   .
   # Dispo: ICU level of care
   .
   # Comm:  Daughter [**Telephone/Fax (1) 1352**]-[**Name2 (NI) 1353**], [**Known firstname 790**] [**Initial (NamePattern1) **] [**Known lastname 323**]
    Relationship: daughter  Phone: [**Telephone/Fax (1) 1354**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-9-9**] 02:47 AM
   18 Gauge - [**2181-9-9**] 05:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2181-09-10 07:54:00 Physician Resident Progress Note
Chief Complaint: RP Hematoma
   24 Hour Events:
   - Patient hypotensive with MAP 50s, hct 23.5. Transfused 1u PRBC.
   During transfusion, O2 sat dropped and had to increase her O2 to 4l nc
   from 2l nc with incrased bibasilar crackles (R>L). O2 sats continued to
   drop over the course of the afternoon ~88% on 4L nc with rales 1/2 up
   on right and a little lower on left. BP 179/79 (102). Repeat hct 29.3,
   gave 10 mg IV lasix and 1 mg iv morphine x2.
   - O2 sats continued to be at 90% on 6L nc. Additional 5 mg iv lasix
   given.
   - TTE ordered
   - Tachycardic, normo to hypertensive this AM.  VS otherwise stable.
   Restarted metoprolol.
   - Pt complaining of leg pain this AM
   History obtained from Patient
   Allergies:
   History obtained from PatientA.C.E Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2181-9-9**] 06:20 PM
   Furosemide (Lasix) - [**2181-9-10**] 01:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Musculoskeletal: Joint pain
   Pain: [**1-30**] Mild
   Pain location: left thigh
   Flowsheet Data as of  [**2181-9-10**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 102 (64 - 132) bpm
   BP: 125/58(73) {86/35(48) - 182/78(100)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
                  Total In:
                                                                  3,370 mL
                  PO:
                                                                    400 mL
                  TF:
   IVF:
                                                                    821 mL
   Blood products:
                                                                    949 mL
   Total out:
                                                                  5,510 mL
                                                                  1,045 mL
   Urine:
                                                                  5,510 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,140 mL
                                                                 -1,045 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   pt laying on her right side, + crackles in right lung fields)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, no expansion of hematoma
   beyond demarcated line, no tenderness to palpation on thigh or area of
   hematoma
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed,
   pt able to move lower ext
   Labs / Radiology
   325 K/uL
   11.1 g/dL
   90 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.2 mEq/L
   17 mg/dL
   102 mEq/L
   135 mEq/L
   31.0 %
   10.0 K/uL
        [image002.jpg]
                            [**2181-9-9**]  01:51 AM
                            [**2181-9-9**]  04:03 AM
                            [**2181-9-9**]  04:17 AM
                            [**2181-9-9**]  11:18 AM
                            [**2181-9-9**]  05:03 PM
                            [**2181-9-9**]  10:00 PM
                            [**2181-9-10**]  04:15 AM
   WBC
   10.0
   12.3
   7.3
   10.0
   Hct
   22.6
   30.4
   23.5
   29.3
   29.1
   31.0
   Plt
   243
   309
   260
   325
   Cr
   0.9
   0.9
   0.8
   TCO2
   23
   Glucose
   112
   108
   90
   Other labs: PT / PTT / INR:13.7/27.6/1.2, Ca++:8.2 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Assesment: This is a [**Age over 90 **] year-old female with a history of CAD, CVA,
   afib on coumadin with supratherapeutic INR who presents with
   hypotension in setting of RP bleed and crit drop.
   .
   Plan:
   # RP Bleed: Patient has known RP bleed seen on CT scan.  Repeat CT-scan
   w/ contrast did not show expansion of the hematoma.  Likely in setting
   of elevated INR. She had a crit drop yesterday to 22.6, she was given
   1U pRBC and increased to 29.1,  This AM her Hct is stable.  No evidence
   of GI bleed (guaiac neg). No fever, white count to suggest infection.
   EKG wnl.  Nuerologically, vascularly stable in her ext.  Renal fxn
   stable.  Pt c/o of chronic leg pain.
   -check q6 Hct and transfuse Hct <25
   -maintain [**12-31**] PIV
   -monitor on tele
   -Active type & screen
   -check crit q6
   - transfuse for Hct < 25
   - monitor neuro status and renal function
   .
   #Pulmonary Edema: Likely [**12-30**] to transfusion of blood products causing
   flash pulmonary edema. Pt again became SOB after blood prodcuts.  Pt
   given lasix and morphine.  Pt still has crackles on exam and O2 sat
   decreased (89-93%)
   - given 10mg lasix IV
   - cont to monitor and check I/O (Goal -1L)
   - monitor respiratory status
   - if pt needs fluid/ blood products should be given gently
   .
   # AF: hold coumadin in setting of bleed and elevated INR, hold toprol
   xl as well in setting of hypotension.   Pt continues to be tachy.
   - Increase  metoprolol 37.5 TID and given IV 5mg x1
   - cont to monitor
   # Low back pain: no neurologic defecits on exam. Her low back pain may
   have been [**12-30**] this RP bleed as her L spine imaging on admission showed
   a ? left pelvic mass. Will hold narcotics given low blood pressure.
   - tylenol prn
   - oxycodone prn for break thru pain
   -cont lidoderm patch
   -cont tizanidine
   -cont gabapentin
   .
   # Coagulopathy- Patient is on coumadin but unclear why her INR
   increased on admission and continued to do so after holding her
   coumadin. No recent antibiotics or new meds that would interfere with
   coumadin. Pt given 3U FFP and 10mg po vit K.  INR now 1.2
   - monitor coags
   .
   # CAD: EKG wnl. Given bleeding and hypotension, will hold asa, plavix
   and bp meds. Cont statin.
   .
   # HTN: started metoprolol for rate control.  Monitor BP for hyoptension
   .
   # Hypothyroidism: cont levothyroxine
   .
   # FEN: begin cardiac diet, replete lytes prn
   .
   # Access- 3 PIV
   .
   # PPx:  protonix, pneumoboots, bowel regimen
   .
   # Code:  Full Code, confirmed with HCP
   .
   # Dispo: ICU level of care
   .
   # Comm:  Daughter [**Telephone/Fax (1) 1352**]-[**Name2 (NI) 1353**], [**Known firstname 790**] [**Initial (NamePattern1) **] [**Known lastname 323**]
    Relationship: daughter  Phone: [**Telephone/Fax (1) 1354**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-9-9**] 02:47 AM
   18 Gauge - [**2181-9-9**] 05:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-09-10 11:20:00 Physician Attending Progress Note
24 Hour Events:
   Hypotensive yesterday with corresponding decrease in HCT, responded to
   fluids and blood, but again had worsening evidence of volume overload.
   Given gentle diuresis following HD stability and developing worsening
   oxygenation.  She was stable overnight following this epsidose in the
   afternoon, but continues to have poor rate control.
   Allergies:
   A.C.E Inhibitors Unknown;
   ICU medications:
   Morphine Sulfate - [**2181-9-9**] 06:20 PM
   Furosemide (Lasix) - [**2181-9-10**] 09:00 AM
   Neurontin
   PPI
   APAP
   Tizandine
   Synthroid
   Lopressor
   Lasix 5mg
   Flowsheet Data as of  [**2181-9-10**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 115 (64 - 132) bpm
   BP: 144/78(95) {95/35(50) - 182/78(100)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
                  Total In:
                                                                  3,370 mL
                                                                    270 mL
   PO:
                                                                    400 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    821 mL
   Blood products:
                                                                    949 mL
   Total out:
                                                                  5,510 mL
                                                                  1,385 mL
   Urine:
                                                                  5,510 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,140 mL
                                                                 -1,115 mL
   Respiratory support
   O2 Delivery Device: 6L Nasal cannula
   SpO2: 92%
   Physical Examination
   Gen:  NAD
   Chest: bibasilar rales
   CV: IR/IR
   Abd: soft/non-tender/nondistended
   Ext: warm/well-perfused, no edema
   Labs / Radiology
   11.1 g/dL
   325 K/uL
   90 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.2 mEq/L
   17 mg/dL
   102 mEq/L
   135 mEq/L
   31.0 %
   10.0 K/uL
        [image002.jpg]
                            [**2181-9-9**]  01:51 AM
                            [**2181-9-9**]  04:03 AM
                            [**2181-9-9**]  04:17 AM
                            [**2181-9-9**]  11:18 AM
                            [**2181-9-9**]  05:03 PM
                            [**2181-9-9**]  10:00 PM
                            [**2181-9-10**]  04:15 AM
   WBC
   10.0
   12.3
   7.3
   10.0
   Hct
   22.6
   30.4
   23.5
   29.3
   29.1
   31.0
   Plt
   243
   309
   260
   325
   Cr
   0.9
   0.9
   0.8
   TCO2
   23
   Glucose
   112
   108
   90
   Other labs: PT / PTT / INR:13.7/27.6/1.2, Ca++:8.2 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   CXR: evidence of interstitial edema with interval worsening overnight.
   Assessment and Plan
   [**Age over 90 **]F with afib and CAD; admitted with worsening of chronic back pain;
   subsequently devloped hypotension and dropping hematocrit; ultimately
   determined to have RP bleed in setting of supra-therapeutic INR.
   1.  RP Hematoma:  Her HCT is 30 this morning (increased from 23
   yesterday) and her hemodynamics are now stable.  RP bleed likely in
   setting of supratherapeutic INR as well as antiplatelet therapy (just
   recently discontinued plavix).   Unclear history of trauma. Currently
   her UOP is stable and she has an intact neurologic exam in her
   extremities.
   - Follow HCT q6-8h today, transfuse cautiously given difficulties with
   transfusions yesterday
   - Maintain peripheral access
   - Follow neurologic and peripheral vascular exam for evidence of
   expanding RP hematoma
   2.  Hypoxemic respiratory failure: related to transfusion of PRBC,
   improved with diuresis.  Currently 94% on 6L NC.  Exam with bibasilar
   crackles.  Suggestive of CHF, though did not improve substantially with
   diuresis.  Also given her afib and history of diastolic dysfunction on
   TTE, this is most likely.  TRALI a consideration given temporal
   relationship with transfusions and persistent hypoxemia despite
   diuresis.
   - Caution regarding PRBC, use judiciously.
   - Given hemodynamic stability, will aim for diuresis today
   3.  CV: CHF and afib RVR with rate from 110-130
   - Diuresis with goal body balance negative 1L today.
   - Rate control to improve LVEDP and will likely improve pulmonary edema
   - holding plavix, coumadin in setting of bleed
   - Titrate beta blocker, given IV dose of lopressor now
   - Continue statin
   3.  Heme: supratherapeutic INR
 has history of labile INR.  No clear
   source.
   - Hold coumadin, follow INR
   5.  Hyponatremia:  Corrected with improvement in intravascular volume.
   Na 135 today.
   ICU Care
   Nutrition: Cardiac prudent diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-9-9**] 02:47 AM
   18 Gauge - [**2181-9-9**] 05:29 AM
   Prophylaxis:
   DVT: pneumoboots; holding heparin with acute bleed
   Stress ulcer: PPI
   Code status: Full code
   Disposition : Overall improving, but needs better rate control and
   improvement in hypoxemia
 remain in ICU today
   Time Spent : 30 min